US07754745B2
(3S)-3-(2-Bromophenoxy)pyrrolidine hydrochloride
The title compound was prepared in the same manner as described for (3S)-3-[2-(trifluoromethyl)phenoxy]pyrrolidine hydrochloride from tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate and 2-bromophenol. 1H NMR (300 MHz, DMSO-d6): δ 7.60 (m, 1H), 7.35 (m, 1H), 7.18 (m, 1H), 6.94 (m, 1H), 5.18 (s, 1H), 3.53 (d, 1H), 3.32 (m, 3H), 2.14 (m, 2H).

reactant | (3S)-3-[2-(trifluoromethyl)phenoxy]pyrrolidine hydrochloride | Cl.FC(C1=C(O[C@@H]2CNCC2)C=CC=C1)(F)F
reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | 2-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
product | (3S)-3-(2-Bromophenoxy)pyrrolidine hydrochloride | Cl.BrC1=C(O[C@@H]2CNCC2)C=CC=C1 | InChI=1S/C10H12BrNO.ClH/c11-9-3-1-2-4-10(9)13-8-5-6-12-7-8;/h1-4,8,12H,5-7H2;1H/t8-;/m0./s1
